Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abd Pain, Hematemesis 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ w/hx of EtOH abuse who p/w abd pain and blood 
streaked emesis x1.  Pt had been sober since xmas but restarted 
EtOH 10d prior.  He tells me he is currently drinking ___ pint 
to a quart/day, had ___ pint of whiskey this AM, last drink at 
10 AM today.  Emesis occurred this morning, with only a small 
amt of blood, no further episodes today and denies dark or 
bloody stools.  No F/C/D/CP/SOB.  He endorses a chronic cough 
which is non-productive and not worse than usual.  He also 
endorses epigastic pain which waxes and wanes he describes as 
mild.  He has no hx of seisures, DT, ICU stays from EtOH 
withdrawal, however he has had many detoxes and frequently 
self-medicates withdrawal.  He has not had any falls or LOC 
recently. 
 
In the ED, initial vitals were: 8 98.2 104 140/81 16 94% RA.  
Labs were notable for AG of 19, nl bicarb, ast 42.  He was given 
diazepam, Tylenol and pantoprazole and 1 LNS.  US showed 
cholelithiasis without sonographic signs of acute cholecystitis.

On the floor, pt reports he has been battling alcoholism for ___ 
years and he seems to have good insight into his condition.  He 
does not know what triggered this recent episode.  He had bloody 
emesis a long time ago but none recently up until today.  He 
states that he had an EGD and ___ at ___ 
earlier this month which showed only a polyp and diverticulitis. 
 He has not had any emesis since arriving in the ED.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies  shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, diarrhea, constipation. 
No recent change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias. 10 pt ros otherwise negative.
 
Past Medical History:
GERD
EtOH abuse
 
Social History:
___
Family History:
Father and mother with lung cancer. Mother with stomach 
aneurysm.

 
Physical Exam:
Exam on admission:

Vitals: 97.4 PO139 / 76R 98 1895RA
Constitutional: Alert, oriented, no acute distress
EYES: Sclera anicteric,  EOMI, PERRL
ENT: MMM, oropharynx clear
CV: Regular rate, mild tachycardia, normal S1 + S2, no murmurs, 
rubs, gallops
Respiratory: coughing,, Clear to auscultation bilaterally, no 
wheezes, rales, rhonchi
GI: Soft, ttp in epigastrium, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions

Exam on discharge: 

T 98.2 PO 104 / 70 90 18 95 RA 
Gen - no distress, sitting up in chair and well appearing 
HEENT - nc/at, eomi, perrla, mmm
Neck - supple, no lad, no jvd
___ - RRR, S1/2, no m/r/g
Lungs - CTA b/l, no w/r/r
Abd - soft, nt, nt, +BS, no rebound/guarding/rigidity
Ext - no edema
Skin - warm and dry
Psych - appropriate, calm
 
Pertinent Results:
___ 01:50PM   GLUCOSE-103* UREA N-14 CREAT-1.1 SODIUM-139 
POTASSIUM-4.8 CHLORIDE-98 TOTAL CO2-22 ANION GAP-24*
___ 01:50PM   estGFR-Using this
___ 01:50PM   ALT(SGPT)-15 AST(SGOT)-42* ALK PHOS-120 TOT 
BILI-0.9
___ 01:50PM   LIPASE-29
___ 01:50PM   ALBUMIN-4.4
___ 01:50PM   WBC-7.5# RBC-4.45* HGB-14.8 HCT-41.9 MCV-94 
MCH-33.3* MCHC-35.3 RDW-15.4 RDWSD-53.2*
___ 01:50PM   NEUTS-64.1 ___ MONOS-10.1 EOS-0.9* 
BASOS-0.5 IM ___ AbsNeut-4.81 AbsLymp-1.83 AbsMono-0.76 
AbsEos-0.07 AbsBaso-0.04
___ 01:50PM   PLT COUNT-279#

MICRO: none

STUDIES:
US ABD: 
1. Cholelithiasis without sonographic signs of acute 
cholecystitis.
2. Normal sonographic appearance the liver.
 
EKG: NSR
 
Brief Hospital Course:
This is a ___ yo M with long hx of EtOH abuse, presents with 
blood-tinged emesis and for detox after recent EtOH binge.

When he presented to the hospital, he was kept on a CIWA scale 
and his blood counts were monitored because of hematemesis. He 
scored on CIWA and received several doses of diazepam for 
withdrawal. 

He had an episode of emesis shortly after admission and what he 
described as dark stool, but a stool guiac test was negative. In 
light of this as well as a recently normal EGD/colonoscopy 
(___), it was felt he did not need further diagnostic 
testing such as repeat EGD. He was seen in consultation by GI 
who advised to advance diet as tolerated, continue PPI, and 
abstain from alcohol. His blood counts remained stable and his 
diet was advanced without issue. 

# Hematemesis: one episode, only a small amt, occurred at home. 
Further episodes of emesis were bilious, and emesis stopped 
shortly after admission
-H&H stable, stool guiac negative
-may have had gastritis or esophagitis but unlikely MW tear or 
other acute process given recent negative EGD
-continue with PPI: takes omeprazole at home, dose unknown, 
receiving protonix while in the hospital and transition back to 
home PO PPI 
-counseled on etoh cessation, recommend outpatient AA 
participation, referral given to AA with help of social work 
-tolerating PO diet well

# EtOH abuse: pt states he was sober for some time and thought 
he could have just one drink, which led to a binge.  
-scored on ciwa ___ at about 6am, no further scoring since 
that time
-c/w MV/thiamine/folate
-recommend o/p AA participation
-scored on the morning of elopement, received diazepam

# Cough: chronic, states he has no recent imaging. No 
medications required. 
-CXR read as mild hyperinflation c/w COPD
-smoking cessation counseled
-given fhx of lung ca, discussed with patient the risks of 
continued tobacco use/abuse
-advised for outpatient f/u with PCP for ___ 

# Abdominal pain - likely related to discomfort along with 
alcohol withdrawal, responded well to tylenol, no interventions 
needed (and u/s without acute findings). Continue tylenol prn as 
outpatient.

# Cholelithiasis noted on u/s: routine outpatient f/u with PCP, 
no intervention necessary

# Dispo: Mr. ___ continued to score on CIWA, and his last 
dose of diazepam was given at about 3am on the last day of 
hospitalization. As he was still scoring on CIWA he was not felt 
to be medically ready for discharge, but he expressed 
disappointment in his care at ___ and decided to leave against 
medical advice. He was agitated and frustrated because he had 
been scoring ___ on the last day of hospitalization, but did not 
receive diazepam for this level score per the parameters of the 
CIWA scale. A one time order of xanax was written and given to 
the patient prior to his departure. He was counseled on the 
risks of continued alcohol withdrawal as well as seizures and 
possibly death. He asked for a prescription of diazepam despite 
leaving AMA, which was not provided. No changes were made to his 
medications and he was encouraged to remain on his PPI. 

___, MD, ___
Hospitalist - ___
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. FoLIC Acid Dose is Unknown  PO DAILY 
3. Thiamine Dose is Unknown  PO DAILY 
4. Omeprazole Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  
3.  Thiamine 100 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal
Hematemesis
Tobacco use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for alcohol withdrawal and 
vomiting with streaks of blood. With regards to your alcohol 
withdrawal, you have continued to show signs of alcohol 
withdrawal, requiring medication. You are not yet stable for 
discharge and are leaving against medical advice. Please take 
care to avoid alcohol. You have been advised that you are high 
risk for seizures and possibly death given your continued need 
for scoring.  

Please follow up with your PCP as well as a program such as AA 
to continue with cessation of alcohol. Please continue a 
multivitamin and folic acid as well as thiamine, which are 
available Over the Counter. 

You had no further blood streaks in your vomit and you were able 
to tolerate a diet without any issues. Please continue to take 
your omeprazole. 

Your xray is noted to have changes suggestive of COPD. You 
should follow up with your PCP to have ___ Function Tests 
(PFTs) to evaluate for possible lung disease. You have been 
advised to stop smoking and you may follow up with your PCP to 
discuss ___ plan for this. 

See your PCP ___ ___ weeks and have your blood counts checked 
to make sure they are stable.

You have elected to leave the hospital against medical advice.  
 
Followup Instructions:
___